US08106043B2
2-(2-Hydroxyethylamino)-1-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone:
A solution of 2-chloro-1-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone (1.0 g, 3.67 mmol) in THF (20 mL) was treated with 4M HCl in 1,4-dioxane (4.58 mL, 18.33 mmol), followed by the slow addition of a solution of 2-aminoethanol (2.207 mL, 36.7 mmol) in water (4 mL). The dark solution was stirred at room temperature for 24 hours. The mixture was diluted with EtOAc (50 mL) and saturated sodium bicarbonate (100 mL), then stirred for 20 minutes. The contents were poured into a separatory funnel, and the organic layer was separated, dried (Na2SO4), filtered, and concentrated to give a dark yellow residue. This residue was subjected to flash chromatography on silica gel using 5:95 MeOH:CH2Cl2 followed by 5:95 (2M NH3 in MeOH):CH2Cl2 to give a yellow residue (320 mg, 29.4%). 1H-NMR (CDCl3) δ 8.14 (d, J=2.7 Hz, 1H), 7.95 (dd, J=2.7, 9.0 Hz, 1H), 7.37 (d, J=9.0 Hz, 1H), 4.02 (t, J=5.1 Hz, 2H), 3.61 (t, J=5.1 Hz, 2H), 3.57 (s, 2H), 3.28 (t, J=5.4 Hz, 2H), 2.77 (t, J=4.8 Hz, 2H); ESI-MS (m/z, %): 298 (MH+, 100%).

reactant | 2-chloro-1-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | 3.67 mmol, 1.0 g | ClCC(=O)N1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C10H9ClN2O3S
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 18.33 mmol, 4.58 mL | O1CCOCC1 | C4H8O2
reactant | 2-aminoethanol | 36.7 mmol, 2.207 mL | NCCO | C2H7NO
reactant | NH3 | 2M | N | H3N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(2-Hydroxyethylamino)-1-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | 320 mg, 29.4% | OCCNCC(=O)N1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C12H15N3O4S
